US04190666
4,5-bis(4-Methoxyphenyl)-2-(1,1,2-trifluoroethylthio)imidazole
To a solution of 2-(2-bromo-1,1,2-trifluoroethylthio)-4,5-bis(4-methoxyphenyl)imidazole (14.2 g., 0.03 mole) in 150 ml. toluene is added tri-n-butyltin hydride (9.0 g., 0.03 mole). The mixture is refluxed for four hours. Another 9.0 g. (0.03 mole) of tri-n-butyltin hydride is added and the mixture is refluxed overnight. The mixture is then added directly to a column of 2 lb. of silica gel (SilicAR® CC-7). Elution with toluene followed by toluene/ethyl acetate (95/5) gives 6.5 g. of crystalline product. A recrystallization from methylcyclohexane gives 5.6 g. of pure product, m.p. 143.5°-145°.

reactant | 2-(2-bromo-1,1,2-trifluoroethylthio)-4,5-bis(4-methoxyphenyl)imidazole | 0.03 mole, 14.2 g | BrC(C(SC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)(F)F)F | C19H16BrF3N2O2S
reactant | tri-n-butyltin hydride | 0.03 mole, 9.0 g | C(CCC)[SnH](CCCC)CCCC
reactant | tri-n-butyltin hydride | 0.03 mole | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5-bis(4-Methoxyphenyl)-2-(1,1,2-trifluoroethylthio)imidazole | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC(CF)(F)F | C19H17F3N2O2S
